Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R jaw swelling
 
Major Surgical ___ Invasive Procedure:
Surgical I+D and removal of teeth

 
History of Present Illness:
Mr. ___ is a ___ yo M with no known PMH (no PCP) who 
presents with 5 days progressive R jaw pain, swelling, and 
fever.  He noticed pain several days before and then his 
symptoms worsened rapidly during this time.  He describes 
swelling and pain on R, difficulty and pain moving his jaw.  He 
denies trauma.  He states that he knew he had "bad teeth" over 
there for sometime but was unable to see a dentist.  He denies 
HA, cough, CP, SOB, n/v/d, dysuria, leg pain ___ swelling.  He 
has not been able to eat since this start though was tolerating 
liquids.

10 point review of systems reviewed, all others negative except 
as listed above
 
Past Medical History:
No known ___
 
Social History:
___
Family History:
Daughter with leukemia, otherwise no significant ___
 
Physical Exam:
VS: 99.9 PO 122 / 72 86 18 96 Ra 
GEN: sitting up in bed in NAD
HEENT: NC/AT, swelling over R mandible with mild erythema, 
bandaged.  MMM with thrush noted.  anicteric sclera, ears wnl
Neck: supple and R swelling as above
CV: RRR no mrg
PULM: CTAB no wheezes ___ crackles
GI: soft NT/ND +BS no rebound ___ guarding
EXT: no edema, warm and well perfused
Neuro: no focal deficits

Exam on discharge:
98.1 BP:155 / 83 HR:66R:18O2 96% RA
Well appearing man sitting in chair in NAD
HEENT: MMM: right sided facial edema with some induration. 
Non-tender on palpation. Tongue with some white deposits. Only 
able to open mouth about half way
Lungs: Clear B/L on auscultation
___: RRR S1 S2 present
Abdomen: Soft, NT ND
Ext: No edema
Neuro: AAOx3, moving all extremities with purpose
Psych: Pleasant and cooperative

 
Pertinent Results:
___ 04:21AM   ___ COMMENTS-GREEN TOP 
___ 04:21AM   LACTATE-2.8*
___ 04:10AM   GLUCOSE-94 UREA N-15 CREAT-0.8 SODIUM-130* 
POTASSIUM-3.9 CHLORIDE-94* TOTAL CO2-23 ANION GAP-17
___ 04:10AM   estGFR-Using this
___ 04:10AM   ALT(SGPT)-8 AST(SGOT)-14 ALK PHOS-68 TOT 
BILI-0.6
___ 04:10AM   ALBUMIN-3.6 CALCIUM-8.5 PHOSPHATE-3.3 
MAGNESIUM-2.2
___ 04:10AM   WBC-8.7 RBC-4.30* HGB-13.5* HCT-40.0 MCV-93 
MCH-31.4 MCHC-33.8 RDW-12.8 RDWSD-43.9
___ 04:10AM   NEUTS-80.0* LYMPHS-9.0* MONOS-10.2 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-6.92* AbsLymp-0.78* AbsMono-0.88* 
AbsEos-0.02* AbsBaso-0.03
___ 04:10AM   PLT COUNT-266
___ 04:10AM   ___ PTT-33.1 ___

OSH CT reviewed: 4.4 cm abscess in R masticator space from 
periodontal disease, destruction of mandible with concern for 
osteomyelitis with phlegmon, intact airway, caries noted

Panorex:
IMPRESSION:
Periapical abscess and osteomyelitis involving the right 
mandibular molar
tooth, ___ 32.

Procedure:
1) Extra-oral incision and drainage of the right lateral
pharyngeal and right sub-mandibular space infection. 
2) Extraction of #31 and 32. 
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with no known PMH who presents with R 
facial/mandibular swelling found to have R submandibular tooth 
abscess and soft tissue infection s/p ___ I+D and tooth 
extraction

#R Dental/Submandibular absess s/p I+D and tooth extraction:
Likely related to chronic tooth disease with interval worsening 
and development of abscess.  Alcohol use may have contributed to 
immunodeficiency.  He is s/p I+D and tooth extraction and is 
clinically improved:
1) Extra-oral incision and drainage of the right lateral 
pharyngeal and right sub-mandibular space infection. 
2) Extraction of #31 and 32.
Although imaging raised concern ___ osteomyelitis, in discussion 
with surgical team his infection appeared confined to the teeth 
and soft tissues.  They were not concerned about deep bone 
infection at this time, and clinically he improved on therapy. 
The patient will be discharged home on Augmentin 875mg BID x7 
days with Peridex mouthwash. He has follow up scheduled with 
___ at ___.  He was given discharge  instructions per ___. 

#Thrush
Some concern for thrush. Per discussion with ___ feel this is 
more due to poor hygiene. Nystatin was not continued on 
discharge. 

#Alcohol abuse
The patient reports drinking up to 6 beers/night. He has no 
history of alcohol withdrawal. He was monitored on CIWA and did 
not score. He was counseled to reduce his alcohol use

#Tobacco abuse
Counseled to stop smoking.

#Hyponatremia:
- Resolved with IVF

Transitional issues:
- Will follow up with ___ 
- Patient given numbers to establish care with PCP via ___ 
___

Patient seen and examined (see above) on day of discharge. >30 
minutes on discharge activities.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
Do not take more than 3grams of Acetaminophen per day
  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
Every 12 hours Disp #*14 Tablet Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 % swish and spit 15mL twice 
daily Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R submandibular abscess and soft tissue infection
Tooth extraction
Alcohol use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,
You were admitted for R facial pain and swelling.  You were 
found to have a tooth infection extending into the space 
underneath the jaw.  You required surgery and removal of teeth.  
After several days of IV antibiotics, you will be discharged to 
complete a course of oral antibiotics.  We recommend close 
follow up with oral surgery.  As we discussed, it is very 
important that you find a primary care physician to treat you 
going forward. You should try and cut back on your alcohol 
intake and stop smoking. Please follow the instructions given to 
you by the Oral surgery team.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___